* GENERIC_OPAMP - generic, non-ideal operational amplifier macromodel
*
* THIS IS NOT A VENDOR PART MODEL. It was authored for this project
* (audio-circuits canonical-model), 2026-09-22. It does not represent, and
* is not derived from, any real operational amplifier: it is NOT a TL072
* and must not be read as one. A circuit may legitimately record
* part.mpn = "TL072" (the part really is a TL072) while its unit records
* spiceModel = "GENERIC_OPAMP" (the model is generic). Those are two
* different claims and conflating them would be exactly the quiet falsehood
* this project exists to avoid.
*
* Why generic rather than a TL072 macromodel. A vendor TL072 macromodel was
* located and inspected but could NOT be redistributed in this repository:
* Texas Instruments distributes one (www.ti.com/lit/zip/sloj067, retrieved
* 2026-09-22, file TL072.301), that file carries no licence text of its own,
* and ti.com's Terms of Use states that software carrying no accompanying
* terms falls under TI's Evaluation, Development and Demonstration Software
* License Agreement (www.ti.com/lit/pdf/sszo061), which says in terms:
* "THIS AGREEMENT DOES NOT CONVEY ANY LICENSE TO USE THE LICENSED MATERIALS
* IN PRODUCTION, OR TO DISTRIBUTE THE LICENSED MATERIALS TO ANY THIRD
* PARTY." No redistributable TL072 macromodel was found from any other
* source either. So none was vendored, and this file is the decided
* fallback. See the task report for the full provenance trail.
*
* WHAT RESULTS FROM THIS MODEL MEAN. They are properties of a generic,
* mildly non-ideal amplifier - an approximation of an ideal amplifier - not
* predictions about a TL072 or about any other real part. Nothing measured
* through this model is evidence about a real device's gain, bandwidth,
* noise, distortion, slew rate, headroom or supply behaviour.
*
* Parameter choices, and the reason for each. None is taken from a
* datasheet; all are round numbers picked to be PLAUSIBLE for a
* general-purpose audio op-amp while staying deliberately non-ideal:
*
*   open-loop DC gain   1e4    (80 dB)
*   dominant pole       300 Hz  -> gain-bandwidth product 3 MHz
*   output resistance   100 ohm (open-loop; inside the feedback loop)
*   differential input  1e12 ohm
*
* The open-loop gain is deliberately MODEST rather than as large as
* possible. A follower built from an amplifier of open-loop gain A has
* closed-loop gain A/(1+A), which sits below unity by about 1/A; with its
* inputs transposed the loop becomes positive feedback and the gain is
* A/(A-1), above unity by about the same amount. That 1/A offset is the
* only thing distinguishing a correctly wired follower from a transposed
* one at audio frequencies, so a model with A = 1e6 makes its own polarity
* almost unmeasurable inside a real circuit, where coupling networks move
* the gain by far more than 1e-6. At A = 1e4 the signature is 1e-4, which
* survives being measured through this project's coupling networks. The
* accompanying test in tests/sim/models.test.ts is what pins the polarity
* down, by measurement, in both directions.
*
* Pin order (position in the .subckt line below): in+, in-, out, v+, v-.
* The internal node names (inp, inn, out, vplus, vminus) avoid "+"/"-",
* which are not safe in SPICE node names; the canonical pin names are
* recorded separately as DeviceModel.pinOrder in lib/sim/models/index.ts.
*
* Input polarity. `inp` is the non-inverting input: it is the first
* controlling node of Eopen, whose controlling pair is (inp, inn), so a
* rising inp drives out positive. Reading that off the line below is only
* half the story, because nothing stops pinOrder and the .subckt line from
* being permuted together; the polarity is therefore also established by
* MEASUREMENT in tests/sim/models.test.ts, which builds a follower from
* pinOrder itself and asserts the closed-loop gain lands strictly BELOW
* unity, and lands strictly ABOVE unity when the two inputs are swapped.
*
* The measurement is an AC one, and the reason is narrower than "an
* operating point cannot see polarity" - it is not that, and saying so
* would claim a mechanism where only an outcome was observed. Measured
* 2026-09-22 through this repository's own runOperatingPoint, on the same
* five-argument follower:
*
*   source `V1 sig 0 DC 1`   correct    v(out) = 0.9999000100
*                            transposed v(out) = 1.0001000100   separated
*   source `V1 sig 0 AC 1`   correct    v(out) = 0
*                            transposed v(out) = 0              blind
*
* So a .op DOES separate the two polarities when the source carries a DC
* value; this model is linear, so its DC system has one solution and there
* is no unstable equilibrium to converge to. What a .op cannot do is
* separate them on a SWEEP deck, whose source is AC-only: ngspice then
* assumes DC 0 (the "Note: v1: has no value, DC 0 assumed" line printed
* throughout this suite), the operating point is identically zero
* everywhere, and 0 = 0 carries no information. The AC result carries the
* sign either way, and is what these tests use.
*
* SUPPLY PINS: STRUCTURAL, NOT BEHAVIOURAL. v+ and v- appear on the .subckt
* line but are referenced by no element inside it, deliberately. This model
* is a linear small-signal amplifier: it does not clip at the rails, has no
* PSRR and no quiescent current, and its behaviour is identical whatever
* the rails sit at. The pins exist so the model can be instantiated against
* a package that has supply pins. NO result obtained through this model
* says anything about headroom, clipping or supply rejection.
*
* Consequently the rails get no DC reference from this model, and a deck
* must supply their potential itself. Measured 2026-09-22 with
* eecircuit-engine: a buffer whose VCC/VEE nets carried only decoupling
* capacitors to ground and this model's supply pins failed with "Warning:
* singular matrix:  check node vcc" / "check node vee" and the analysis did
* not run; adding DC sources on those rails (SimulationEnvironment.supplies)
* made the same deck solve. That is an observation about what solved and
* what did not, not a claim about node pruning.
*
.subckt GENERIC_OPAMP inp inn out vplus vminus
Rin inp inn 1e12
Eopen amp 0 inp inn 1.0e4
Rpole amp lag 1.0e6
Cpole lag 0 5.3052e-10
Ebuf buf 0 lag 0 1
Rout buf out 100
.ends GENERIC_OPAMP
